US08835429B2
A mixture of 3-(2-chloro-6-phenylpyrimidin-4-yl)-8-oxa-3-azabicyclo[3.2.1]octane (500 mg, 1.66 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (545 mg, 2.49 mmol), Pd(PPh3)4 (20 mg), and 2M aqueous Na2CO3 (1.25 mL) in 1:1 toluene:EtOH (8 mL) was heated in a microwave at 120° C. for 20 min. The reaction was repeated with 386 mg of 3-(2-chloro-6-phenylpyrimidin-4-yl)-8-oxa-3-azabicyclo[3.2.1]octane. The reaction mixtures were combined, diluted with EtOAc and washed with H2O then brine. The organic layer was dried over MgSO4 and concentrated in vacuo to give an orange oil. Silica gel chromatography (hexane/EtOAc) gave 4-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-phenylpyrimidin-2-yl)aniline as a white solid (450 mg).

reactant | 3-(2-chloro-6-phenylpyrimidin-4-yl)-8-oxa-3-azabicyclo[3.2.1]octane | 1.66 mmol, 500 mg | ClC1=NC(=CC(=N1)N1CC2CCC(C1)O2)C2=CC=CC=C2 | C16H16ClN3O
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 2.49 mmol, 545 mg | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
reactant | Na2CO3 | 2M, 1.25 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | 3-(2-chloro-6-phenylpyrimidin-4-yl)-8-oxa-3-azabicyclo[3.2.1]octane | 386 mg | ClC1=NC(=CC(=N1)N1CC2CCC(C1)O2)C2=CC=CC=C2 | C16H16ClN3O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | EtOH | 8 mL | CCO | C2H6O
product | 4-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-phenylpyrimidin-2-yl)aniline | 450 mg | C12CN(CC(CC1)O2)C2=NC(=NC(=C2)C2=CC=CC=C2)C2=CC=C(N)C=C2 | C22H22N4O
